US08044213B2
To a mixture of 0.050 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid (I.41 g), 1 mL of dimethylformamide and 0.0418 g (0.11 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium, 3-oxide, hexafluorophosphate(1-) (1:1) was added 0.016 g (0.3 mmole) of ammonium chloride and 0.052 mL (0.3 mmole) of ethyldiisopropylamine. The mixture was stirred at ambient temperature for 1 hour. The solid was removed by filtration and the filtrate was purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 20:80-100:0) to give 0.032 g of 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.41) as a white powder. MH+/Z=496

reactant | 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid | 0.1 mmole, 0.050 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C=C2)CCCCN2CCOCC2 | C25H25ClN4O3S
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium | 0.11 mmole, 0.0418 g | CN(C)C(=[N+]1N=NC2=NC=CC=C21)N(C)C
reactant | hexafluorophosphate(1-) | F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 0.3 mmole, 0.016 g | [Cl-].[NH4+]
reactant | ethyldiisopropylamine | 0.3 mmole, 0.052 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.032 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)CCCCN2CCOCC2 | C25H26ClN5O2S
